US08980877B2
(E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (300 mg, 0.86 mmol) was hydrolyzed with 1 M NaOH following the procedure described in Example 30, Step A, giving (E)-3-[1′-ethyloxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (200 mg, hydrochloride salt) as a yellow solid.

reactant | (E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 0.86 mmol, 300 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)C(=O)OCC)OC2=CC1)=O)=O | C18H19NO6
reactant | NaOH | 1 M | [OH-].[Na+]
product | (E)-3-[1′-ethyloxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 200 mg | C(C)OC(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C17H17NO6
